US06479524B1
a. 2-(4-bromo-2-methyl-benzoyl)-thiazole
2.0 g (13 mmol) of 2-trimethylsilylthiazole and 6.1 g (26 mmol) of 4-bromo-2-methyl-benzoic acid chloride are combined while cooling with an ice bath and then are heated to 80° C. for 3 hours. The crude product is taken up in 30 ml of ethyl acetate, washed with H2O, saturated NaHCO3 solution and H2O, dried and purified by flash chromatography (silica gel; methylene chloride).

reactant | 2-trimethylsilylthiazole | 13 mmol, 2.0 g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | 4-bromo-2-methyl-benzoic acid chloride | 26 mmol, 6.1 g | BrC1=CC(=C(C(=O)Cl)C=C1)C | C8H6BrClO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-bromo-2-methyl-benzoyl)-thiazole | BrC1=CC(=C(C(=O)C=2SC=CN2)C=C1)C | C11H8BrNOS
